US08748012B2
A solution of dibenzo[b,d]furan-4-ylboronic acid (2.60 g, 12.26 mmol), with bis(4-bromophenyl)diphenylsilane (12.12 g, 24.53 mmol), Pd(PPh3)4 (0.283 g, 0.245 mmol) and K2CO3 (5.08 g, 36.8 mmol) in toluene (200 mL) and water (50 mL) was refluxed under nitrogen overnight. After cooling to room temperature, the organic phase was isolated. Upon evaporation of the solvent, the residue was purified by column chromatography on silica gel with hexane:DCM (9:1, v/v) as eluent to yield (4-bromophenyl)(4-(dibenzo[b,c]furan-4-yl)phenyl)diphenylsilane (3.14 g, 44%) as a white solid.

reactant | dibenzo[b,d]furan-4-ylboronic acid | 12.26 mmol, 2.60 g | C1=CC=C(C=2OC3=C(C21)C=CC=C3)B(O)O | C12H9BO3
reactant | bis(4-bromophenyl)diphenylsilane | 24.53 mmol, 12.12 g | BrC1=CC=C(C=C1)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=C(C=C1)Br | C24H18Br2Si
reactant | K2CO3 | 36.8 mmol, 5.08 g | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.245 mmol, 0.283 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (4-bromophenyl)(4-(dibenzo[b,c]furan-4-yl)phenyl)diphenylsilane | 3.14 g, 44% | BrC1=CC=C(C=C1)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=C(C=C1)C=1C=CCC23C1OC=C2C=CC=C3 | C36H27BrOSi
